US09388161B2
A 50-mL round-bottom flask was charged with (S)-methyl 5-cyclobutoxy-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoline-1(2H)-carboxylate (0.080 g, 0.20 mmol), tert-butyl 4-(4-bromothiazol-2-yl)piperazine-1-carboxylate (0.083 g, 0.24 mmol), sodium carbonate (0.042 g, 0.40 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.081 g, 0.10 mmol), 1,4-dioxane (10 mL) and water (3 mL). The resulting mixture stirred for 4 h at 80° C. The reaction mixture was cooled to room temperature, filtered through a short pad of Celite, and the filtrate was concentrated under vacuum. The residue was purified via preparative thin layer chromatography (eluting with 10:1, dichloromethane/methanol) to afford (S)-methyl 6-(2-(4-(tert-butoxycarbonyl)piperazin-1-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.070 g, 64%) as a light yellow solid. MS (ESI, pos. ion) m/z 543 [M+H]+.

reactant | (S)-methyl 5-cyclobutoxy-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoline-1(2H)-carboxylate | 0.20 mmol, 0.080 g | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1B1OC(C(O1)(C)C)(C)C)C(=O)OC)C | C22H32BNO5
reactant | tert-butyl 4-(4-bromothiazol-2-yl)piperazine-1-carboxylate | 0.24 mmol, 0.083 g | BrC=1N=C(SC1)N1CCN(CC1)C(=O)OC(C)(C)C | C12H18BrN3O2S
reactant | sodium carbonate | 0.40 mmol, 0.042 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.10 mmol, 0.081 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | water | 3 mL | O | H2O
product | (S)-methyl 6-(2-(4-(tert-butoxycarbonyl)piperazin-1-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.070 g, 64% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC=C(N1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C28H38N4O5S
